US07842688B2
d) 4-(3-Bromopropoxy)-1,2-difluorobenzene
Analogously to Example 91b, 2.00 g of 3,4-difluorophenol and 31.0 g of 1,3-dibromopropane are reacted. The title compound is obtained as a colourless oil. Rf=0.66 (1:6 EtOAc-heptane); Rt=5.01.

reactant | 3,4-difluorophenol | 2.00 g | FC=1C=C(C=CC1F)O | C6H4F2O
reactant | 1,3-dibromopropane | 31.0 g | BrCCCBr | C3H6Br2
product | 4-(3-Bromopropoxy)-1,2-difluorobenzene | BrCCCOC1=CC(=C(C=C1)F)F | C9H9BrF2O
